US07091214B2
7-Bromo-2-ethoxymethyl-1-{2-[2-(methanesulfonyl)ethoxy]-2-methylpropyl}-1H-imidazo[4,5-c]quinolin-4-amine (1.2 g, 2.4 mmol) and pyridine-3-boronic acid 1,3-propanediol cyclic ester (0.47 g, 2.9 mmol) were coupled according to the method described in Part J of Example 1. The work-up procedure used in Part F of Examples 125–135 was followed. The crude product was purified by column chromatography on silica gel (eluting sequentially with 95:5 and 90:10 dichloromethane:methanol) followed by recrystallization from acetonitrile (52 mL/g). The crystals were isolated by filtration, washed with acetonitrile, and dried for four hours under vacuum at 65° C. to provide 0.70 g of 2-ethoxymethyl-1-{2-[2-(methanesulfonyl)ethoxy]-2-methylpropyl}-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as white, crystalline plates, mp 202–204° C.

reactant | 7-Bromo-2-ethoxymethyl-1-{2-[2-(methanesulfonyl)ethoxy]-2-methylpropyl}-1H-imidazo[4,5-c]quinolin-4-amine | 2.4 mmol, 1.2 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)(C)OCCS(=O)(=O)C)COCC | C20H27BrN4O4S
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 2.9 mmol, 0.47 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
product | 2-ethoxymethyl-1-{2-[2-(methanesulfonyl)ethoxy]-2-methylpropyl}-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.70 g | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)C=2C=NC=CC2)N)N1)CC(C)(C)OCCS(=O)(=O)C | C25H31N5O4S
